US06992197B2
(1) Synthesis of 4-oxatricyclo[5,2,1,02,6]decan-3-one
Under nitrogen atmosphere, 176 g (4.649 mol) of sodium borohydride was put into a flask and 2000 g of THF and 9.8 g of methanol were added thereto. A solution of 954 g (5.812 mol) of 5-norbornene-2,3-dicarboxylic anhydride dissolved in 2800 g of THF was added thereto dropwise while cooling them by an ice bath to keep the reaction temperature at 35° C. or lower. After completion of the dropping, the mixture was stirred at 30° C. for 4 hours, then poured into 3000 g of 10% aqueous sulfuric acid solution at 20° C. or lower and stirred for a while. Under reduced pressure, THF was recovered, and 1800 g of MIBK was added thereto for extraction. Further 900 g of MIBK was added to the separated aqueous layer for extraction and combined with the organic layer. 63.6 g of sodium carbonate and 200 g of water were added to the organic layer and stirred for a while. The separated organic layer was washed with diluted sulfuric acid and water, then concentrated, thereby 565.3 g of a white solid desired product of a lactone compound was obtained (64.76% yield).

reactant | sodium borohydride | 4.649 mol, 176 g | [BH4-].[Na+]
reactant | 5-norbornene-2,3-dicarboxylic anhydride | 5.812 mol, 954 g | C12C3C(C(C=C1)C2)C(=O)OC3=O | C9H8O3
reactant | sulfuric acid | 3000 g | S(O)(O)(=O)=O | H2O4S
solvent | THF | 2800 g | C1CCOC1 | C4H8O
catalyst | methanol | 9.8 g | CO | CH4O
solvent | THF | 2000 g | C1CCOC1 | C4H8O
product | 4-oxatricyclo[5,2,1,02,6]decan-3-one | 565.3 g, 64.76% yield | C12C3C(OCC3C(CC1)C2)=O | C9H12O2
